US07176242B2
Step 5: 3-Butyl-N-{(1S,2R)-1-(3,5-difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}-1-methyl-1H-indole-5-carboxamide
To a mixture of 3-Butyl-1-methyl-1H-indole-5-carboxylic acid (0.15 g) in methylene chloride (5 mL) and tetrahydrofuran (10 mL) was added 1,1-carbonyldiimidazole (0.105 g). The mixture was stirred at 40° C. at which time (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-[(3-ethylbenzyl)amino]butan-2-ol (0.2 g) in methylene chloride (5 mL) was added. The mixture was stirred at 40° C. for 18 h then poured into methylene chloride (50 mL). The mixture was washed with water then brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure. Column chromatography on silica gel (100 mL) using 85:10:5 (methylene chloride: hexanes: methanol) as eluent to give 0.102 g of the title compound: MS (ESI+) for C33H39F2N3O2 m/z 547.9 (M+H)+.

reactant | 3-Butyl-1-methyl-1H-indole-5-carboxylic acid | 0.15 g | C(CCC)C1=CN(C2=CC=C(C=C12)C(=O)O)C | C14H17NO2
reactant | (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-[(3-ethylbenzyl)amino]butan-2-ol | 0.2 g | N[C@H]([C@@H](CNCC1=CC(=CC=C1)CC)O)CC1=CC(=CC(=C1)F)F | C19H24F2N2O
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | 3-Butyl-N-{(1S,2R)-1-(3,5-difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}-1-methyl-1H-indole-5-carboxamide | 0.102 g | C(CCC)C1=CN(C2=CC=C(C=C12)C(=O)N[C@H]([C@@H](CNCC1=CC(=CC=C1)CC)O)CC1=CC(=CC(=C1)F)F)C | C33H39F2N3O2
